US08957064B2
isopropyl-(2-methyl-6-phenyl-7-{4-{3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidin-5-yl)-amine
The compound is prepared in analogy to example 64. 399.3 mg 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-6-methylpyridine×2HCl (60% pure) are reacted with 280 mg (0.76 mmol) 4-(2-methyl-5-isopropylamino-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde to yield finally after HPLC purification 10.4 mg (2.34%) of the desired compound.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-6-methylpyridine | 399.3 mg | N1CC(C1)C1=NC(=NN1)C1=NC(=CC=C1)C | C11H13N5
reactant | 4-(2-methyl-5-isopropylamino-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | 0.76 mmol, 280 mg | CC=1N=C2N(C(=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)NC(C)C)C1 | C23H22N4O
product | isopropyl-(2-methyl-6-phenyl-7-{4-{3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidin-5-yl)-amine | C(C)(C)NC1=C(C(=NC=2N1C=C(N2)C)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC(=CC=C2)C)C2=CC=CC=C2 | C34H35N9
